US08222416B2
A solution of 1-benzenesulfonyl-5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (260 mg, 0.48 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 2 mL, 2 mmol) was stirred at room temperature for 12 h. The resulting mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous ammonium chloride solution and brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (193 mg, quant.) as a white solid: LC/MS m/e calcd for C22H21F3N2O2 [M+H]+ 403.42, observed 403.2.

reactant | 1-benzenesulfonyl-5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.48 mmol, 260 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(=CC2CCOCC2)C2=CC=C(C=C2)C(F)(F)F | C28H25F3N2O4S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mmol, 1 M, 2 mL | O1CCCC1 | C4H8O
product | 5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 193 mg | COC=1C=C2C(=NC1)NC(=C2)C(=CC2CCOCC2)C2=CC=C(C=C2)C(F)(F)F | C22H21F3N2O2
